US04316985
A solution of 19.74 g (0.036 mol) of ammonium ceric nitrate in 120 ml of water was added to a stirred solution of 3.00 g (0.012 mol) of methyl rac-1,2,3,4-tetrahydro-5,8-dimethoxynaphthalene-2-carboxylate in 54 ml of acetonitrile. The mixture was stirred at room temperature for 25 minutes and then diluted with 150 ml of water. The solution was extracted with three 150 ml portions of diethyl ether and the combined diethyl ether extracts were washed with 150 ml of water, dried and evaporated to yield 2.60 g (98.5%) of methyl rac-1,2,3,4,5,8-hexahydro-5,8-dioxonaphthalene-2-carboxylate in the form of a bright yellow solid of melting point 41°-42° C.

reactant | ammonium ceric nitrate | 0.036 mol, 19.74 g | [N+](=O)(O)[O-].[N+](=O)(O)[O-].[N+](=O)(O)[O-].[N+](=O)(O)[O-].[N+](=O)(O)[O-].[N+](=O)(O)[O-].[Ce]
reactant | methyl rac-1,2,3,4-tetrahydro-5,8-dimethoxynaphthalene-2-carboxylate | 0.012 mol, 3.00 g | COC1=C2CCC(CC2=C(C=C1)OC)C(=O)OC | C14H18O4
solvent | water | 120 ml | O | H2O
solvent | acetonitrile | 54 ml | C(C)#N | C2H3N
solvent | water | 150 ml | O | H2O
product | methyl rac-1,2,3,4,5,8-hexahydro-5,8-dioxonaphthalene-2-carboxylate | 2.60 g, 98.5% | O=C1C=2CCC(CC2C(C=C1)=O)C(=O)OC | C12H12O4
